US04690928
Step G: Preparation of 1,3,4,6,7,10b-Hexahydro-2H-thiazolo [4,5-a]quinolizin-2-one
Following the procedures substantially as described in Example 1, Steps F and G but substituting for the quinolizin-2-one used therein, an equimolar amount of the quinolizin-2-one from Step G of this Example 13, there are produced in sequence: (2RS,10bSR)-N-(1,3,4,6,7,10b-hexahydro-2H-thiazolo[4,5-a]quinolizin-2-yl)-N-methylamine; and (2RS,10bSR)-N-(1,3,4,6,7,10b-hexahydro-2H-thiazolo[4,5-a]quinolizin-2-yl)-N,N',N'-trimethylsulfamide, hydrochloride.

reactant | (2RS,10bSR)-N-(1,3,4,6,7,10b-hexahydro-2H-thiazolo[4,5-a]quinolizin-2-yl)-N-methylamine | N1C(SC2C1C1=CC=CCN1CC2)NC | C11H17N3S
reactant | (2RS,10bSR)-N-(1,3,4,6,7,10b-hexahydro-2H-thiazolo[4,5-a]quinolizin-2-yl)-N,N',N'-trimethylsulfamide, hydrochloride | Cl.N1C(SC2C1C1=CC=CCN1CC2)N(S(=O)(=O)N(C)C)C
product | 1,3,4,6,7,10b-Hexahydro-2H-thiazolo [4,5-a]quinolizin-2-one | N1C(SC2C1C1=CC=CCN1CC2)=O | C10H12N2OS
